### PR TITLE
[Merged by Bors] - feat(Topology): fiberwise summation

### PR DESCRIPTION
**Pull request by jtristan**
Fiberwise summation for extended non-negative reals.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 1]
```diff
@@ -1083,6 +1083,12 @@ theorem finset_card_const_le_le_of_tsum_le {ι : Type*} {a : ι → ℝ≥0∞}
     _ ≤ c := tsum_le_c
 #align ennreal.finset_card_const_le_le_of_tsum_le ENNReal.finset_card_const_le_le_of_tsum_le
 
+theorem tsum_fiberwise (f : β → ENNReal) (g : β → γ) :
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/ENNReal.lean:1086]:
```suggestion
theorem tsum_fiberwise (f : β → ℝ≥0∞) (g : β → γ) :
```
We use the notation for ENNReal most of the time.

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 2]
```diff
@@ -1083,6 +1083,12 @@ theorem finset_card_const_le_le_of_tsum_le {ι : Type*} {a : ι → ℝ≥0∞}
...
+    ∑' (x : γ), ∑' (b : (g ⁻¹' {x})), f b = ∑' i : β, f i :=
+  HasSum.tsum_eq <|
+  (((Equiv.sigmaFiberEquiv g).hasSum_iff).mpr (Summable.hasSum ENNReal.summable)).sigma <|
+  (fun _ ↦ ((ENNReal.summable).hasSum_iff).mpr rfl)
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/ENNReal.lean:1090]: Term mode proofs tend to be much harder to read than tactic proofs, where it is easier to read the order of arguments and the elementary steps. So, as a general rule, we avoid term mode for proofs which are longer than one line, although this is not an absolute rule. Do you think you could try to convert your proof to tactic mode?

**Review by sgouezel — COMMENTED** [review]
Nitpicking comments, but this looks good!

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 2 above)
Comment (jtristan) [reply Mathlib/Topology/Instances/ENNReal.lean:1090]: Will do!

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 3]
```diff
@@ -1083,6 +1083,13 @@ theorem finset_card_const_le_le_of_tsum_le {ι : Type*} {a : ι → ℝ≥0∞}
     _ ≤ c := tsum_le_c
 #align ennreal.finset_card_const_le_le_of_tsum_le ENNReal.finset_card_const_le_le_of_tsum_le
 
+theorem tsum_fiberwise (f : β → ℝ≥0∞) (g : β → γ) :
+    ∑' (x : γ), ∑' (b : (g ⁻¹' {x})), f b = ∑' i : β, f i := by
+  apply HasSum.tsum_eq
+  let equiv := Equiv.sigmaFiberEquiv g
+  apply ((equiv.hasSum_iff).mpr (Summable.hasSum ENNReal.summable)).sigma
+  apply (fun _ ↦ ((ENNReal.summable).hasSum_iff).mpr rfl)
```
Comment (sgouezel) [inline Mathlib/Topology/Instances/ENNReal.lean:1091]:
```suggestion
    ∑' x, ∑' b : g ⁻¹' {x}, f b = ∑' i, f i := by
  apply HasSum.tsum_eq
  let equiv := Equiv.sigmaFiberEquiv g
  apply (equiv.hasSum_iff.mpr ENNReal.summable.hasSum).sigma
  exact fun _ ↦ ENNReal.summable.hasSum_iff.mpr rfl
```
Thanks a lot, this looks great! I have removed a few useless parentheses (this tends to increase readability) and type annotations, and changed the last `apply` to `exact` (because this indicates this is the end of the proof). I have also used dot notation. This is just to show you some tricks, your proof was already perfectly acceptable!

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
